US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-methyl-4-(trifluoromethyl)-1H-pyrazole-3-carboxamide
In the same manner as in Example 18-4 and using 1-methyl-4-(trifluoromethyl)-1H-pyrazole-3-carboxylic acid (194 mg, 1.00 mmol), tetrahydrofuran (7 mL), oxalyl chloride (95.6 μL, 1.10 mmol), N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (281 mg, 0.910 mmol), N,N-dimethylformamide (1 drop) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (211 mg, 48%) was obtained as a white solid.

reactant | 1-methyl-4-(trifluoromethyl)-1H-pyrazole-3-carboxylic acid | 1.00 mmol, 194 mg | CN1N=C(C(=C1)C(F)(F)F)C(=O)O | C6H5F3N2O2
reactant | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
reactant | oxalyl chloride | 1.10 mmol, 95.6 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-aminophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.910 mmol, 281 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)phenyl]-1-methyl-4-(trifluoromethyl)-1H-pyrazole-3-carboxamide | 211 mg, 48% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2)NC(=O)C2=NN(C=C2C(F)(F)F)C)=N1 | C22H18F3N7O3
